US05399699
To a 0° C. suspension of anhydrous aluminum chloride (4.8 g, 36 mmol) in CH2Cl2 (15 ml) was added t-butyl mercaptan (12 ml) followed by ethyl 1-(4-chlorobenzyl)-3-(t-butylthio)-5-methoxyindole-2-carboxylate (3.77 g; 11 mmol), prepared as in step 2, and the resulting mixture was stirred at 0° C. for 45 min. The reaction mixture was then poured into ice and aqueous 1N hydrochloric acid (100 ml) and extracted with ethyl acetate. The organic phase was concentrated in vacuo to provide 4.2 g of crude oily ethyl 1-(4-chlorobenzyl)-3-(t-butylthio)-5-hydroxyindole-2-carboxylate which was used without further purification.

reactant | aluminum chloride | 36 mmol, 4.8 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | t-butyl mercaptan | 12 ml | C(C)(C)(C)S | C4H10S
reactant | ethyl 1-(4-chlorobenzyl)-3-(t-butylthio)-5-methoxyindole-2-carboxylate | 11 mmol, 3.77 g | ClC1=CC=C(CN2C(=C(C3=CC(=CC=C23)OC)SC(C)(C)C)C(=O)OCC)C=C1 | C23H26ClNO3S
reactant | hydrochloric acid | 1N, 100 ml | Cl | ClH
solvent | CH2Cl2 | 15 ml | C(Cl)Cl | CH2Cl2
product | ethyl 1-(4-chlorobenzyl)-3-(t-butylthio)-5-hydroxyindole-2-carboxylate | 4.2 g | ClC1=CC=C(CN2C(=C(C3=CC(=CC=C23)O)SC(C)(C)C)C(=O)OCC)C=C1 | C22H24ClNO3S
